US05886016
A mixture of 7-methoxyisochroman-4-one (3.96 g, 22.2 mmol) and ethyl trifluoroacetate (2.90 mL, 5.8 mmol) was dissolved in 30 mL of diethyl ether and treated with a solution of 25% sodium methoxide in methanol (5.8 mL, 26.7 mmol). The solution was stirred at room temperature for 1 hour. The solution was diluted with 1N HCl and extracted with ethyl acetate, washed with brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo to afford a solid. The crude reaction product was dissolved in 50 mL of ethanol and treated with 4-sulfonamidophenylhydrazine hydrochloride (5.47 g, 24.4 mmol). This solution was heated to reflux for 3.5 hours, cooled to room temperature, diluted with 100 mL of 1N HCl. After cooling the solution to 0° C. for ca. 0.5 hour, crystals of pure 4-[1,5-dihydro-7-methoxy-3-(trifluoromethyl)-[2]benzopyrano[4,3-c]pyrazol-1-yl]benzenesulfonamide formed that were isolated by filtration and dried in vacuo to afford 7.56 g (80%): mp 275° C. (dec). 1H NMR (CDCl3 300 MHz) 7.91 (d, J=8.66 Hz, 2H), 7.54 (d, J=8.66 Hz, 2H), 6.69-6.54 (m, 5H), 5.07 (s, 2H), 3.63 (s, 3H). 19F NMR (CDCl3 282 MHz) -62.01(s). Anal. calc'd. for C18H14F3N3O4S: C, 50.82; H, 3.32; N, 9.88; S, 7.54. Found: C, 50.93; H, 3.38; N, 9.94; S, 7.57.

reactant | 7-methoxyisochroman-4-one | 22.2 mmol, 3.96 g | COC1=CC=C2C(COCC2=C1)=O | C10H10O3
reactant | ethyl trifluoroacetate | 5.8 mmol, 2.90 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 26.7 mmol, 5.8 mL | CO | CH4O
reactant | 4-sulfonamidophenylhydrazine hydrochloride | 24.4 mmol, 5.47 g | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | HCl | 1N | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | HCl | 1N, 100 mL | Cl | ClH
product | 4-[1,5-dihydro-7-methoxy-3-(trifluoromethyl)-[2]benzopyrano[4,3-c]pyrazol-1-yl]benzenesulfonamide | COC1=CC2=C(C=C1)C=1N(N=C(C1OC2)C(F)(F)F)C2=CC=C(C=C2)S(=O)(=O)N | C18H14F3N3O4S
